US06515011B2
sec-Butyl-lithium (1.3 M in cyclohexane, 10.72 mL) was added to a stirred solution of tert-butyl 5-chloro-2-methylbenzylcarbamate (1.781 g, 6.96 mmol) in THF (14 mL) at −78° C. under nitrogen to give a deep red solution. After 10 min N-(-2,2-difluoroethylidene)-N-(4-methoxyphenyl)amine (1.29 g, 6.96 mmol) was added and after a further 5 min the solution was quenched with excess saturated aqueous NH4Cl and warmed to ambient temperature. The solution was partitioned between EtOAc and brine. The organic layer was dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash column chromatography on silica (eluting with 5% methylene chloride, 5-15% ethyl acetate/hexanes gradient) to give tert-butyl 5-chloro-2-{3,3-difluoro-2-[(4-methoxyphenyl)amino]propyl}benzylcarbamate (0.516 g) as a foam; MS m/z=441.1.

reactant | sec-Butyl-lithium | 1.3 M, 10.72 mL | C(C)(CC)[Li]
reactant | tert-butyl 5-chloro-2-methylbenzylcarbamate | 6.96 mmol, 1.781 g | ClC=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)C | C13H18ClNO2
reactant | N-(-2,2-difluoroethylidene)-N-(4-methoxyphenyl)amine | 6.96 mmol, 1.29 g | FC(C=NC1=CC=C(C=C1)OC)F | C9H9F2NO
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-chloro-2-{3,3-difluoro-2-[(4-methoxyphenyl)amino]propyl}benzylcarbamate | 0.516 g | ClC=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)CC(C(F)F)NC1=CC=C(C=C1)OC | C22H27ClF2N2O3
